US06455520B1
N-[2-methyl-5(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-(3-dimethylaminopropylamino)-2-nitrobenzamide
In an analogous procedure to that described in Example 15, N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-chloro-2-nitrobenzamide was reacted with 3-dimethylaminopropylamine to give the title compound; NMR Spectrum: (DMSOd6) 1.6-1.72 (m, 2H), 2.12 (s, 6H), 2.22-2.28 (m, 5H), 3.2-3.25 (m, 2H), 3.5-3.54 (m, 4H), 3.69-3.73 (m, 4H), 6.65-6.68 (m, 2H), 7.04 (d, 1H), 7.2 (d, 1H), 7.25 (d, 1H), 7.29 (t, 1H), 7.68 (d, 1H), 8.84 (s, 1H), 8.0 (d, 1H), 8.26 (d, 1H), 9.82 (s, 1H), 10.34 (s, 1H); Mass Spectrum: M+H+ 562.

reactant | N-[2-methyl-5-(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-chloro-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C24H22ClN5O5
reactant | 3-dimethylaminopropylamine | CN(CCCN)C | C5H14N2
product | N-[2-methyl-5(2-morpholinopyrid-4-ylcarbonylamino)phenyl]-5-(3-dimethylaminopropylamino)-2-nitrobenzamide | CC1=C(C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)NC(C1=C(C=CC(=C1)NCCCN(C)C)[N+](=O)[O-])=O | C29H35N7O5
